US06951879B2
According to the method in example 4, 6-(4-Bromo-butoxy)-3-(4-bromo-phenyl)-benzo[d]isothiazole and azetidine were converted to yield 6-(4-Azetidin-1-yl-butoxy)-3-(4-bromo-phenyl)-benzo[d]isothiazole, MS: 418 (MH+, 1Br).

reactant | 6-(4-Bromo-butoxy)-3-(4-bromo-phenyl)-benzo[d]isothiazole | BrCCCCOC1=CC2=C(C(=NS2)C2=CC=C(C=C2)Br)C=C1 | C17H15Br2NOS
reactant | azetidine | N1CCC1 | C3H7N
product | 6-(4-Azetidin-1-yl-butoxy)-3-(4-bromo-phenyl)-benzo[d]isothiazole | N1(CCC1)CCCCOC1=CC2=C(C(=NS2)C2=CC=C(C=C2)Br)C=C1 | C20H21BrN2OS
